US05412134
A solution of (2S-trans)-2,3-bis[(benzyloxy)methyl]cyclobutanone (0.5 g., 1.61 mmole) in toluene (1 ml.) was added dropwise to a solution of isobutylaluminum dichloride (0.71M in hexane, 3.41 ml., 2.42 mmole) at -78° C. The mixture was allowed to warm slowly to room temperature over 2 hours. After stirring for 30 minutes at room temperature, the mixture was allowed to stand at 0° C. overnight. After dilution with ethyl acetate, the reaction mixture was quenched with 10% hydrochloric acid. The organic phase was washed with brine, dried (magnesium sulfate) and the solvent evaporated to give [1S-(1α,2β,3β)]-3-hydroxy-1,2-cyclobutanedimethanol, dibenzyl ether; TLC (50% ethyl acetate/hexane) Rf =0.53.

reactant | (2S-trans)-2,3-bis[(benzyloxy)methyl]cyclobutanone | 1.61 mmole, 0.5 g | C(C1=CC=CC=C1)OC[C@H]1C(C[C@@H]1COCC1=CC=CC=C1)=O | C20H22O3
reactant | isobutylaluminum dichloride | 2.42 mmole, 0.71M, 3.41 ml | [Cl-].[Cl-].C(C(C)C)[Al+2]
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | dibenzyl ether | C(C1=CC=CC=C1)OCC1=CC=CC=C1 | C14H14O
